US04316037
1-Benzyl-5-carboethoxytetrazole
An equimolar mixture of benzyl azide and ethyl cyanoformate is heated in a bomb under antogenous pressure at 150° C. for 4 hours. The resulting yellow oil is crystallized from hexane to give the title compound, m.p. 58°-61° C.

reactant | benzyl azide | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
reactant | ethyl cyanoformate | C(#N)C(=O)OCC | C4H5NO2
product | 1-Benzyl-5-carboethoxytetrazole | C(C1=CC=CC=C1)N1N=NN=C1C(=O)OCC | C11H12N4O2
